US09351974B2
Step c: 2-Chloro-7-methyl-8-(3-methylbutyl)-7,8-dihydropteridin-6(5H)-one
A mixture of methyl N-(2-chloro-5-nitropyrimidin-4-yl)-N-(3-methylbutyl)alaninate (16.2 g, 49 mmol), iron powder (6.9 g, 123 mmol) and glacial acetic acid (165 mL) was heated at 60° C. for 2 h. The reaction mixture was then filtered while hot over celite and washed with hot acetic acid (40 mL) followed by ethyl acetate (250 mL). The filtrate after evaporation was taken up in ethyl acetate and washed two times with aq. saturated sodium bicarbonate solution followed by brine. It was dried over sodium sulfate and evaporated. The residue was triturated with hot isopropyl ether to give titled product (yield: 61%). 1HNMR (300 MHz, CDCl3): δ 0.92-1.01 (m, 7H), 1.43-1.75 (m, 5H), 3.01-3.20 (m, 1H), 4.10-4.25 (m, 2H), 7.63 (s, 1H), 9.13 (s, 1H).

reactant | methyl N-(2-chloro-5-nitropyrimidin-4-yl)-N-(3-methylbutyl)alaninate | 49 mmol, 16.2 g | ClC1=NC=C(C(=N1)N([C@@H](C)C(=O)OC)CCC(C)C)[N+](=O)[O-] | C13H19ClN4O4
catalyst | iron | 123 mmol, 6.9 g | [Fe] | Fe
solvent | acetic acid | 165 mL | C(C)(=O)O | C2H4O2
product | 2-Chloro-7-methyl-8-(3-methylbutyl)-7,8-dihydropteridin-6(5H)-one | yield: 61% | ClC1=NC=2N(C(C(NC2C=N1)=O)C)CCC(C)C | C12H17ClN4O
